US04713387
In 20 ml of ethanol was dissolved 2.0 g of ethyl (E)-3-[4-(pyridin-3-yloxy)phenyl]acrylate, and to the resulting solution was added 1.0 g of 5% palladiumcarbon, after which the resulting mixture was stirred in a hydrogen atmosphere at room temperature for 5 hours. The reaction mixture was filtered and the filtrate thus obtained was concentrated under reduced pressure to obtain 2.0 g (yield 99%) of colorless, oily ethyl 3-[4-(pyridin-3-yloxy)phenyl]propionate.

reactant | ethyl (E)-3-[4-(pyridin-3-yloxy)phenyl]acrylate | 2.0 g | N1=CC(=CC=C1)OC1=CC=C(C=C1)/C=C/C(=O)OCC | C16H15NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladiumcarbon | 1.0 g | [C].[Pd]
product | ethyl 3-[4-(pyridin-3-yloxy)phenyl]propionate | yield 99% | N1=CC(=CC=C1)OC1=CC=C(C=C1)CCC(=O)OCC | C16H17NO3
